US08835432B2
2-((4-fluoro-2-nitrophenyl)amino)butanoic acid
A mixture of 2,5-difluoronitrobenzene (119 ml, 1.10 mol), 2-aminobutanoic acid (114 g, 1.10 mol), and potassium carbonate (152.2 g, 1.10 mol) in dimethyl sulfoxide (410 ml, 1.10 mol) was stirred at 80° C. for 23 h. ([Note 1]: The mixture had a deep orange red color. The internal temperature of the mixture went up to ˜110° C. for 1 h and then went down to 80° C.). After 23 h, the reaction was cooled to rt and carefully poured into water (2 L+1 L). The aqueous mixture was washed with diethyl ether (1 L×2) to remove organic impurities. The aqueous layer was then acidified to ˜pH 1.5 with concentrated HCl (300 mL) to generate a yellow solid. The yellow solid was collected by filtration, washed with water (3 L), and air-dried to give the desired product, a wet orange solid. The wet orange solid was recrystallized from 3 L toluene and stood at rt overnight to afford the desired product as an orange crystalline solid. The orange crystalline solid was filtered, washed with toluene (2 L), and dried under high vacuum at 80° C. for 4 h and then on lyophilizer overnight to afford 2-(4-fluoro-2-nitrophenylamino)-butanoic acid (203.6 g, 76.4% yield) as an orange crystalline solid. The orange crystalline solid was carried on without further purification to the next step.

reactant | 2,5-difluoronitrobenzene | 1.10 mol, 119 ml | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 2-aminobutanoic acid | 1.10 mol, 114 g | NC(C(=O)O)CC | C4H9NO2
reactant | potassium carbonate | 1.10 mol, 152.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 1.10 mol, 410 ml | CS(=O)C | C2H6OS
solvent | water | 2 L | O | H2O
product | 2-((4-fluoro-2-nitrophenyl)amino)butanoic acid | FC1=CC(=C(C=C1)NC(C(=O)O)CC)[N+](=O)[O-] | C10H11FN2O4
